US05910498
Ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,4,6-trifluorophenyl)-1,8-naphthyridine-3-carboxylate
With ice cooling, 5 ml of a toluene solution containing 1.39 ml of 2,4,6-trifluoroaniline was added dropwise to 10 ml of a toluene solution containing 6.40 g of ethyl 2-(2,6-dichloro-5-fluoronicotinoyl)-3-ethoxyacrylate and stirred overnight at room temperature. The solvent was distilled off then to the residue, ethanol was added. The resulting crystals were collected by filtration and washed with diethyl ether, to give ethyl 2,6-dichloro-5-fluoronicotinoyl-3-(2,4,6-trifluorophenyl)aminoacrylate. To 9 ml of a N,N-dimethylformamide solution containing 2.0 g of ethyl 2,6-dichloro-5-fluoronicotinoyl-3-(2,4,6-trifluorophenylamino)acrylate was added 0.63 g of potassium carbonate. The solution was stirred for 90 minutes at room temperature. The reaction solution was poured into ice water, the precipitated solid was collected by filtration and washed with ethanol and diethyl ether, to give 1.38 g of the title compound.

reactant | ethyl 2,6-dichloro-5-fluoronicotinoyl-3-(2,4,6-trifluorophenylamino)acrylate | 2.0 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2F)F)F)C=C(C(=N1)Cl)F | C17H10Cl2F4N2O3
reactant | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | Ethyl 7-chloro-6-fluoro-1,4-dihydro-4-oxo-1-(2,4,6-trifluorophenyl)-1,8-naphthyridine-3-carboxylate | 1.38 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1F)F)F)C(=O)OCC)=O)F | C17H9ClF4N2O3
